US09238639B2
A) Methyl(6-hydroxy-4,7-dimethyl-1-benzofuran-3-yl)acetate
To ethyl 4-chloro-3-oxobutanoate (3.08 mL) was added sulfuric acid (8.10 mL) at 0° C., then was added 2,5-dimethylbenzene-1,3-diol (3.0 g) in several portions at 0° C. The mixture was warmed to room temperature and stirred at room temperature for 2 h. The reaction mixture was poured into water under stirring at 0° C. The precipitate was collected by filtration and washed with hexane to give a solid. The solid was added to 1N NaOH (40 mL) at room temperature. The mixture was stirred at 100° C. for 1 h. After cooling, the reaction mixture was acidified with 6 N HCl (7.0 mL). The mixture was extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo to give the crude product. To a mixture of the crude product and MeOH (50 mL) was added H2SO4 (0.057 mL). The mixture was stirred at 60° C. for 2 h. The mixture was concentrated. The residue was neutralized with saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (865 mg).

reactant | ethyl 4-chloro-3-oxobutanoate | 3.08 mL | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | sulfuric acid | 8.10 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2,5-dimethylbenzene-1,3-diol | 3.0 g | CC1=C(C=C(C=C1O)C)O | C8H10O2
reactant | NaOH | 1N, 40 mL | [OH-].[Na+]
reactant | HCl | 6 N, 7.0 mL | Cl | ClH
reactant | H2SO4 | 0.057 mL | OS(=O)(=O)O | H2O4S
solvent | MeOH | 50 mL | CO | CH4O
solvent | water | O | H2O
product | Methyl(6-hydroxy-4,7-dimethyl-1-benzofuran-3-yl)acetate | 865 mg | COC(CC1=COC2=C1C(=CC(=C2C)O)C)=O | C13H14O4
